US08431563B2
To a 100-mL round-bottomed flask was added ethyl 3-(6-methoxy-2-pyridinyl)alaninate (1.045 g, 4.66 mmol), N-boc-glycine (0.898 g, 5.13 mmol, Aldrich, St. Louis, Mo.), HATU (2.126 g, 5.59 mmol, Aldrich, St. Louis, Mo.), and N,N-diisopropylethylamine (2.43 mL, 13.98 mmol, Aldrich, St. Louis, Mo.) in DMF (5 mL). The reaction mixture was stirred at room temperature for 3 h. The reaction mixture was diluted with water (40 mL) and extracted with EtOAc (2×50 mL). The organic extract was washed with saturated NaCl (30 mL) and dried over Na2SO4. The solution was filtered and concentrated in vacuo to give the crude material as light-yellow oil. The crude product was purified by silica gel chromatography, eluting with 70% EtOAc/hexanes to give ethyl N-(tert-butoxycarbonyl)glycyl-3-(6-methoxy-2-pyridinyl)alaninate (1.29 g) as a colorless oil.

reactant | ethyl 3-(6-methoxy-2-pyridinyl)alaninate | 4.66 mmol, 1.045 g | COC1=CC=CC(=N1)C[C@H](N)C(=O)OCC | C11H16N2O3
reactant | N-boc-glycine | 5.13 mmol, 0.898 g | C(=O)(OC(C)(C)C)NCC(=O)O | C7H13NO4
reactant | HATU | 5.59 mmol, 2.126 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N,N-diisopropylethylamine | 13.98 mmol, 2.43 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | water | 40 mL | O | H2O
product | ethyl N-(tert-butoxycarbonyl)glycyl-3-(6-methoxy-2-pyridinyl)alaninate | 1.29 g | C(C)(C)(C)OC(=O)NCC(=O)N[C@@H](CC1=NC(=CC=C1)OC)C(=O)OCC | C18H27N3O6
